US05516444
Component 1 ("C-1"): Isomerized-Octadecenyl Succinimide
Into a 189 liter (50 gallon) stainless steel reactor, charge 62.6 kg. (137.8 lbs.) of double-bond isomerized-octadecenyl succinic anhydride (Dixie Chemical Company, Inc.) and 13.1 kg. (28.8 lbs.) of 150 solvent neutral (S150N) mineral oil. Heat the contents of the reactor to 130° C.±10° C. under a nitrogen atmosphere and stir at a speed of 150 rpm. Charge 15 kg. (33 lbs.) of tetraethylene pentamine (Union Carbide "Ultra High Purity" grade) below the surface of the reactor contents and heat the contents to 160° C.±5° C. Strip with nitrogen for approximately 21/2 hours or until water no longer evolves.

reactant | octadecenyl succinic anhydride | C(=CCCCCCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C22H38O3
reactant | tetraethylene pentamine | 33 lbs | NCCNCCNCCNCCN | C8H23N5
solvent | water | O | H2O
product | Octadecenyl Succinimide | C(=CCCCCCCCCCCCCCCCC)C1C(=O)NC(C1)=O | C22H39NO2
